US08236976B2
Preparation of (S)-2-Methyl-non-4-en-3-ol (14)
The product was prepared by General procedure S using 98 mg (0.55 mmol) Cy2BH, 64 μL (0.55 mmol) 1-hexyne, 0.55 mL (1.1 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, and 45 μL (0.50 mmol) isobutyraldehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 88% yield (69 mg, 0.44 mmol). [α]D20=−12.5 (c=1.3, CHCl3, 92% ee); 1H NMR (CDCl3, 500 MHz): δ 0.82 (d, 3H, J=6.7 Hz), 0.84 (t, 3H, J=7.2 Hz), 0.87 (d, 3H, J=6.7 Hz), 1.23-1.32 (m, 4H), 1.48 (br s, 1H), 1.64 (m, 1H), 1.99 (dt, 2H, J=6.8, 6.55 Hz), 3.72 (t, 1H, J=6.5 Hz), 5.40 (dd, 1H, J=15.3, 7.2 Hz), and 5.57 (dt, 1H, J=15.3, 6.7 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.9, 18.1, 18.2, 22.2, 31.4, 32.0, 33.8, 78.3, 131.1, and 133.2 ppm; IR (neat): 3221, 2953, 2925, 2862, 1488, 1466, 1381, 1331, 1260, and 1194 cm−1; LRMS-CI m/z 139.14 [(M−OH)+; calcd for C10H19: 139.15].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.55 mmol, 64 μL | C#CCCCC | C6H10
reactant | Et2Zn | 1.1 mmol, 2.0 M, 0.55 mL | [Zn](CC)CC
reactant | isobutyraldehyde | 0.50 mmol, 45 μL | C(C(C)C)=O | C4H8O
product | (S)-2-Methyl-non-4-en-3-ol | 88% yield | CC(C)[C@@H](C=CCCCC)O | C10H20O
